US05204333
A mixture of 2-cyclobutyl-2-hydroxymethylpropane-1,3-diol (6.7 g, 42 mmol), diethyl carbonate (5.5 g, 46 mmol) and potassium hydroxide (0.1 g in 5 ml dry ethanol) was heated to reflux under nitrogen for 15 minutes. Ethanol was then distilled off at atmospheric pressure and the residue distilled under reduced pressure. 3-Cyclobutyl-3-hydroxymethyloxetane was obtained as a colourless liquid (4.3 g, 73%) bp 130°-160° C. at 30 mm Hg.

reactant | 2-cyclobutyl-2-hydroxymethylpropane-1,3-diol | 42 mmol, 6.7 g | C1(CCC1)C(CO)(CO)CO | C8H16O3
reactant | diethyl carbonate | 46 mmol, 5.5 g | C(OCC)(OCC)=O | C5H10O3
reactant | potassium hydroxide | 5 ml, 0.1 g | [OH-].[K+]
product | 3-Cyclobutyl-3-hydroxymethyloxetane | C1(CCC1)C1(COC1)CO | C8H14O2
